US08013156B2
To a suspension of 3′-hydroxy-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester (304 mg, 1.08 mmol), 2-Fluoro-4-pyridinemethanol (138 mg, 1.08 mmol), and triphenylphosphine (286 mg, 1.09 mmol) in THF (5 mL) was added diethyl azidocarboxylate (210 mg, 1.21 mmol) dropwise. The resulting clear brown solution was stirred at room temperature for 16 h, then concentrated in vacuo. The crude solids were purified by flash chromatography (silica gel, 1:2 EtOAc:Hexanes). Product 3′-(2-fluoro-pyridin-4-ylmethoxy)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester was obtained as white solid (113 mg, 26.9% yield).

reactant | 3′-hydroxy-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester | 1.08 mmol, 304 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CN=C1O | C13H20N4O3
reactant | 2-Fluoro-4-pyridinemethanol | 1.08 mmol, 138 mg | FC1=NC=CC(=C1)CO | C6H6FNO
reactant | triphenylphosphine | 1.09 mmol, 286 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3′-(2-fluoro-pyridin-4-ylmethoxy)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CN=C1OCC1=CC(=NC=C1)F | C19H24FN5O3
